US06878700B1
(2-Bromophenyl)[2-chloro-4-(E-((2-tetrahydroisoquinolinyl)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-bromothiophenol, 2-chlorobenzaldehyde with 3-chloro-4-fluoro-benzaldehyde, and 6-amino-1-hexanol with tetrahydroisoquinoline. 1H NMR (DMSO-d6, 300 MHz) δ 8.12 (d, J=7.4 Hz, 1H), 7.81 (dd, J=7.7, 1.1 Hz, 1H), 7.67 (dd, J=8.3, 1.3 Hz, 1H), 7.47 (m, 2H), 7.43 (dd, J=7.5, 1.3 Hz, 2H), 7.34 (dt, J=7.6, 1.7 Hz, 1H), 7.27 (d 7.7 Hz, 1H), 7.19 (m, 4H), 7.05 (d, J=8.1 Hz, 1H), 4.92 (s, 1H), 4.72 (s, 1H), 3.95 (t, J=5.9 Hz, 1H), 3.78 (t, J=5.7 Hz, 1H), 2.89 (t, J=5.3 Hz, 1H), 2.83 (t, J=3.7, 1H). HRMS calculated for C24H19N1O2S1Br1Cl1: 484.0138. Observed: 484.0128.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-bromothiophenol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-chloro-4-fluoro-benzaldehyde | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | (2-Bromophenyl)[2-chloro-4-(E-((2-tetrahydroisoquinolinyl)carbonyl)ethenyl)phenyl]sulfide | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)N1CC2=CC=CCC2CC1)Cl | C24H21BrClNOS
